US06410534B1
Step E: (R)-2-(tert-Butoxycarbonylamino)-N-(7- hydroxynaphthalen-1-yl)propionamide
To a solution of (R)-2-(tert-butoxycarbonylamino)-N-[7-(tert-butyldiphenylsilyloxy)naphthalen-1-yl]propionamide (290 mg, 0.51 mmol) in dry THF (2 mL), under argon, was added TBAF (0.56 mL of a 1.0 M solution in THF, 0.56 mmol) dropwise. The resulting mixture was stirred at ambient temperature for 30 min, then saturated aqueous NaHCO3 (1 mL) was added and the THF was removed under reduced pressure. The residue was partitioned between saturated aqueous NaHCO3 (10 mL) and CH2Cl2 (30 mL). The aqueous layer was extracted further with CH2Cl2 (30 mL) and the combined organic extracts were dried over Na2SO4, filtered, and concentrated in vacuo. The crude product was purified by flash column chromatography on silica, eluting with a gradient of CH2Cl2-10% to 30% EtOAc to yield the titled product as a pale solid.

reactant | (R)-2-(tert-butoxycarbonylamino)-N-[7-(tert-butyldiphenylsilyloxy)naphthalen-1-yl]propionamide | 0.51 mmol, 290 mg | C(C)(C)(C)OC(=O)N[C@@H](C(=O)NC1=CC=CC2=CC=C(C=C12)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)C | C34H40N2O4Si
reactant | TBAF | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | NaHCO3 | 1 mL | C(=O)(O)[O-].[Na+]
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | (R)-2-(tert-Butoxycarbonylamino)-N-(7- hydroxynaphthalen-1-yl)propionamide | C(C)(C)(C)OC(=O)N[C@@H](C(=O)NC1=CC=CC2=CC=C(C=C12)O)C | C18H22N2O4
